US08735417B2
A flask was charged with a solution of 2,4-dichloro-5-fluoropyrimidine (1.0 g, 5.99 mmol) in N,N′-dimethylformamide (20 ml). Tetrahydrofuran-3-ol (0.63 m, 7.19 mmol) and cesium carbonate (3.32 g, 10.18 mmol) were added and the resulting mixture was heated to 80° C. overnight. Upon completion, the mixture was diluted with ethyl acetate (20 mL) and washed with 1:1 water:brine (3×40 mL). The organic extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification by CombiFlash (ethyl acetate/hexanes) provided 374 mg (1.7 mmol, 29%) of 2-chloro-5-fluoro-4-(tetrahydrofuran-3-yloxy)pyrimidine. MS APCI: [M+H]+ m/z 219.0.

reactant | 2,4-dichloro-5-fluoropyrimidine | 5.99 mmol, 1.0 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | Tetrahydrofuran-3-ol | 7.19 mmol | O1CC(CC1)O | C4H8O2
reactant | cesium carbonate | 10.18 mmol, 3.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N′-dimethylformamide | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-5-fluoro-4-(tetrahydrofuran-3-yloxy)pyrimidine | 1.7 mmol, 374 mg, 29% | ClC1=NC=C(C(=N1)OC1COCC1)F | C8H8ClFN2O2
